US05356885
(R)-1-(4-Bromo-2-butynyl)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pyrrolidinone
The title compound is prepared by the procedure of Example 23 using 10.7 g of (R)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-propargyl-2-pyrrolidinone, 8.7 ml of diethylamine, 3.2 g of paraformaldehyde, 0.10 g of cuprous chloride, 15 ml of acetic acid and 100 ml of dioxane. Ten grams of the diamine intermediate is treated with 3.5 g of cyanogen bromide in 150 ml of diethyl ether to give 2.05 g of the desired compound as a yellow oil. [α]D26° =+26° (methylene chloride).

reactant | (R)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-propargyl-2-pyrrolidinone | 10.7 g | CC(C)(C)[Si](O[C@H]1C(N(CC1)CC#C)=O)(C)C | C13H23NO2Si
reactant | diethylamine | 8.7 ml | C(C)NCC | C4H11N
reactant | paraformaldehyde | 3.2 g | C=O | CH2O
reactant | cyanogen bromide | 3.5 g | N#CBr | CBrN
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | (R)-1-(4-Bromo-2-butynyl)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pyrrolidinone | 2.05 g | BrCC#CCN1C([C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C14H24BrNO2Si
